US07589232B2
Step b) Formation of 5-((1,3-benzodioxol-5-ylcarbonyl){4-[(4-butylphenyl)ethynyl]-benzyl}amino)-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-1,3-benzodioxole-5-carboxamide and NaOH 5M aq. in the presence of EtOH as a pale yellow powder (55%). 1H NMR (CDCl3, 300 MHz) δ 10.47 (s, 1H), 7.44 (m, 5H), 7.26 (d, J=8.2 Hz, 2H), 7.16 (d, J=8.0 Hz, 2H), 6.97 (m, 1H), 6.86 (m, 2H), 6.80 (d, J=9.1 Hz, 1H), 6.62 (d, J=8.6 Hz, 1H), 5.93 (s, 2H), 5.07 (s, 2H), 2.62 (t, J=7.8 Hz, 2H), 1.61 (m, 2H), 1.36 (m, 2H), 0.93 (t, J=7.2 Hz, 3H). M− (ESI): 546.2; M+ (ESI): 548: HPLC, Rt: 5.23 min (Purity: 98.3%)

reactant | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-1,3-benzodioxole-5-carboxamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2=CC3=C(OCO3)C=C2)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C37H33NO6
reactant | NaOH | 5M | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 5-((1,3-benzodioxol-5-ylcarbonyl){4-[(4-butylphenyl)ethynyl]-benzyl}amino)-2-hydroxybenzoic acid | O1COC2=C1C=CC(=C2)C(=O)N(C=2C=CC(=C(C(=O)O)C2)O)CC2=CC=C(C=C2)C#CC2=CC=C(C=C2)CCCC | C34H29NO6
